US06194461B1
Production of α-(2,4-difluorophenyl)-N-[dimethyl(3,3-ethylenedioxy-1-propyl)methyl]nitrone
A suspension of 2,4-difluorobenzaldehyde (290.6 mg, 2.04 mmol), 2-(3-methyl-3-nitrobutyl)-1,3-dioxolane (776.8 mg, 4.11 mmol) and zinc (402.7 mg, 6.16 mmol) in ethanol (5 ml) was cooled to 0° C. in ice-water bath. Acetic acid (0.69 ml, 12.0 mmol) was added dropwise to the mixture. The mixture was gradually warmed to room temperature and stirred for 10 hours and let stand overnight. The mixture was filtered through Celite® bed and the filtrate was concentrated and purified by silica gel chromatography (hexane/ethyl acetate=4/1-1/1) to give the title compound (419.4 mg; 69%).

reactant | 2,4-difluorobenzaldehyde | 2.04 mmol, 290.6 mg | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | 2-(3-methyl-3-nitrobutyl)-1,3-dioxolane | 4.11 mmol, 776.8 mg | CC(CCC1OCCO1)(C)[N+](=O)[O-] | C8H15NO4
reactant | Acetic acid | 12.0 mmol, 0.69 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | zinc | 6.16 mmol, 402.7 mg | [Zn] | Zn
product | α-(2,4-difluorophenyl)-N-[dimethyl(3,3-ethylenedioxy-1-propyl)methyl]nitrone | 419.4 mg, 69% | FC1=C(C=CC(=C1)F)C=[N+]([O-])C(CCC1OCCO1)(C)C | C15H19F2NO3
